US04245117
100 grams of L-cystine dihydrochloride were dissolved in 500 ml of water. The solution was adjusted to pH 3 by the addition of a concentrated aqueous solution of sodium hydroxide. As a result of this, the L-cystine separated out. The yield was 74 grams, corresponding to 94% based on the L-cystine dihydrochloride added. The L-cystine in a 5 percent solution in 1 N aqueous hydrochloric acid had a specific rotation of -217°. According to thin layer chromatography and column chromatography examination it was free from impurities.

reactant | L-cystine dihydrochloride | 100 grams | Cl.Cl.C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | L-cystine | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
